US06797825B2
(3Z)-6-bromo-3-(1H-pyrrol-2-ylmethylene)-1,3-dihydro-2H-indol-2-one
A solution of 6-bromo-1,3-dihydro-2H-indol-2-one (100 mg, 0.47 mmol), 1H-pyrrole-2-carbaldehyde (49.2 mg, 0.52 mmol), and piperidine (0.02 mL, 0.2 mmol) in methanol (3 mL) was stirred at 65° C. for 2 hours, cooled to room temperature, and filtered. The filter cake was washed with hexanes to provide the desired product (65 mg, 48%). MS (DCI/NH3) m/z 290 (M+H)+.

reactant | 6-bromo-1,3-dihydro-2H-indol-2-one | 0.47 mmol, 100 mg | BrC1=CC=C2CC(NC2=C1)=O | C8H6BrNO
reactant | 1H-pyrrole-2-carbaldehyde | 0.52 mmol, 49.2 mg | N1C(=CC=C1)C=O | C5H5NO
reactant | piperidine | 0.2 mmol, 0.02 mL | N1CCCCC1 | C5H11N
solvent | methanol | 3 mL | CO | CH4O
product | (3Z)-6-bromo-3-(1H-pyrrol-2-ylmethylene)-1,3-dihydro-2H-indol-2-one | 65 mg, 48% | BrC1=CC=C2/C(/C(NC2=C1)=O)=C/C=1NC=CC1 | C13H9BrN2O
